US06919355B2
f) 6-(4-Benzylpiperidin-1-carbonyl)-1,5-dihydro-oxazolo[4,5-f]indole-2-one
The title compound is prepared from 2-oxo-1,5-dihydro-2H-oxazolo[4,5-f]indole-6-carboxylic acid and 4-benzylpiperidine according to the method described in Example 1/c. Mp.: 270-271° C. (diethyl ether).

reactant | 2-oxo-1,5-dihydro-2H-oxazolo[4,5-f]indole-6-carboxylic acid | O=C1OC=2C(=CC=3C=C(NC3C2)C(=O)O)N1 | C10H6N2O4
reactant | 4-benzylpiperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-(4-Benzylpiperidin-1-carbonyl)-1,5-dihydro-oxazolo[4,5-f]indole-2-one | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)C=1NC=2C=C3C(=CC2C1)NC(O3)=O | C22H21N3O3
